US07135572B2
N-(1-ethoxy-ethylidene)-4-methyl-benzamide 429 mg (2.09 mmol) was dissolved in a mixed solvent of dichloromethane 20 ml and methanol 10 ml, and 6-hydrazinopyridine-3-sulfonic acid amide 433 mg (2.23 mmol) was added to the solution and stirred for 8 hours. After completing the reaction, water 20 ml was added to the reacting solution and extracted two times with dichloromethane, and then, the collected organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure, and the resulting product was re-crystallized in acetone and hexane phase. As a result, 6-(3-methyl-5-p-toly-[1,2,4]triazole-1-yl)-pyridine-3-sulfonic acid amide (372 mg, yield: 54%) was obtained as a solid phase.

reactant | N-(1-ethoxy-ethylidene)-4-methyl-benzamide | 2.09 mmol, 429 mg | C(C)OC(C)=NC(C1=CC=C(C=C1)C)=O | C12H15NO2
reactant | 6-hydrazinopyridine-3-sulfonic acid amide | 2.23 mmol, 433 mg | N(N)C1=CC=C(C=N1)S(=O)(=O)N | C5H8N4O2S
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 6-(3-methyl-5-p-toly-[1,2,4]triazole-1-yl)-pyridine-3-sulfonic acid amide | 372 mg, yield: 54% | CC1=NN(C(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=N1)S(=O)(=O)N | C15H15N5O2S
